US06596716B2
N-2-(4-(3-thienyl)phenyl)propyl amine
2-(3-thienyl)phenyl-N-(t-butoxycarbonyl)propyl amine: To a solution of 0.7 g (2.2 mmol) of material from Preparation 4, 0.3 g (2.4 mmol) thiophene-3-boronic acid and 0.46 g (3.3 mmol) of potassium carbonate in 5 mL of dioxane and 1 mL of water was added 0.025 g (0.11 mmol) of palladium(II)acetate and 0.058 g (0.22 mmol) triphenyl phosphine. The mixture was heated at 100° C. for 18 hr. The mixture was cooled to room temperature and 5 mL of brine was added. The organic layer was separated and dried (MgSO4), filtered and concentrated in vacuo. Chromatography (25 g of silica gel, 25% ethyl acetate/hexane) of the residue afforded 0.44 g (60%) of the title compound.

reactant | 2-(3-thienyl)phenyl-N-(t-butoxycarbonyl)propyl amine | S1C=C(C=C1)C1=C(C=CC=C1)NCCCC(=O)OC(C)(C)C | C18H23NO2S
reactant | thiophene-3-boronic acid | 2.4 mmol, 0.3 g | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | potassium carbonate | 3.3 mmol, 0.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenyl phosphine | 0.22 mmol, 0.058 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
solvent | brine | 5 mL | [Cl-].[Na+].O
catalyst | palladium(II)acetate | 0.11 mmol, 0.025 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-2-(4-(3-thienyl)phenyl)propyl amine | 0.44 g, 60% | S1C=C(C=C1)C1=CC=C(C=C1)C(CN)C | C13H15NS
